Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right carotid stenosis
 
Major Surgical or Invasive Procedure:
R CEA

 
History of Present Illness:
Mr. ___ is a ___ male with asymptomatic right carotid 
stenosis.  We know this is in the 70-79% range, likely at the 
upper end of the spectrum.  He is going to have major prostate 
surgery in the near future and would like to have this taken 
care of prior to that.  We agree that this is reasonable.  We 
have previously had extensive discussions about the relative 
merits of endarterectomy and stenting and he is a strong 
proponent of endarterectomy.  Patient understands the risks and 
benefits of surgery and agrees to proceed with surgery.
 
Past Medical History:
Asymptomatic right carotid stenosis, a duodenal ulcer in ___, 
hypertension, gout, and glaucoma.  There is no history of 
myocardial infarction, angina, diabetes, colitis, stroke, lung 
disease, thyroid disease, hepatitis, or sciatica.

 
Social History:
___
Family History:
NC
 
Physical Exam:
AVSS
Neck: right carotid bruit
Chest: CTAB
Cor: RRR, no m/r/g
Abd: soft, NT/ND
Ext: no c/c/e
 
Pertinent Results:
Labs on admission:
___ 03:16AM BLOOD WBC-11.4* RBC-3.63* Hgb-10.8* Hct-32.2* 
MCV-89 MCH-29.7 MCHC-33.4 RDW-13.9 Plt ___
___ 03:16AM BLOOD Glucose-206* UreaN-19 Creat-1.0 Na-138 
K-4.5 Cl-106 HCO3-23 AnGap-14
___ 03:16AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.1
 
Brief Hospital Course:
Patient underwent right CEA on ___ for asymptomatic 80% 
right carotid stenosis.  Please see Dr. ___ 
note for details.  Patient tolerated the procedure well, was 
transferred to the PACU and then to the VICU in stable 
condition.  He did not have neurological deficits. Pain was well 
controlled with the use of minimal narcotics.  By POD1 patient 
was tolerating POs and urinating well after his foley was 
removed.  His home medications were reviewed and restarted.  His 
staples were removed and steri strips placed.  Patient being 
discharged home today in good condition.  He will follow up with 
Dr. ___.  
 
Medications on Admission:
Lumigan 0.03 % Drops 1 qtt in each eye at bedtime, Alphagan P  
0.15 % Drops 1 gtt in each eye twice a day, HCTZ 12.5 mg ___, 
Lisinopril 20mg ___, Metoprolol Tartrate 12.5mg BID, Percocet 
prn, Ranitidine HCl 150 mg Tablet ___, Simvastatin 20 mg Tablet 
___, Ascorbic Acid [Vitamin C] 1,000 mg Tablet ___ 81mg ___, 
Vitamin B ___ 1 tab ___, Calcium Carbonate-Vitamin D3 
[Calcium+D] 500 mg (1,250 mg)-200 unit Tablet BID, colace, MVI  

 
Discharge Medications:
1. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
2. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*0*
4. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
5. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
6. Ascorbic Acid ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. B Complex Vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
9. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day) as needed for constipation.  
11. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for severe pain: Do not drive or 
operate heavy machinery.
Disp:*30 Tablet(s)* Refills:*0*
12. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
13. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
14. Hydrochlorothiazide 12.5 mg Tablet Sig: One (1) Tablet PO 
twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Carotid artery stenosis

 
Discharge Condition:
Stable

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Carotid Endarterectomy Surgery Discharge Instructions

What to expect when you go home:
1. Surgical Incision:
•It is normal to have some swelling and feel a firm ridge along 
the incision
•Your incision may be slightly red and raised, it may feel 
irritated from the staples

2. You may have a sore throat and/or mild hoarseness
•Try warm tea, throat lozenges or cool/cold beverages 

3. You may have a mild headache, especially on the side of your 
surgery
•Try ibuprofen, acetaminophen, or your discharge pain 
medication
•If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office

4. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•You may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!

5. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•No driving until post-op visit and you are no longer taking 
pain medications
•No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit
•You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed
•Take all the medications you were taking before surgery, 
unless otherwise directed
•Take one full strength (325mg) enteric coated aspirin daily, 
unless otherwise directed 
•Call and schedule an appointment to be seen in 2 weeks for 
staple/suture removal

What to report to office:
•Changes in vision (loss of vision, blurring, double vision, 
half vision)
•Slurring of speech or difficulty finding correct words to use
•Severe headache or worsening headache not controlled by pain 
medication
•A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg
•Trouble swallowing, breathing, or talking
•Temperature greater than 101.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___